US07446211B2
In still a further embodiment, 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile is prepared according to the present invention. This process includes reacting 1-methyl-pyrrole-2-carbonitrile and a boron agent; coupling the boronated carbonitrile with 6-bromo-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoazin-2-one (the Brofoxine™ reagent) to give 5-(4,4-dimethyl-2-oxo-1,4- dihydro -2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile. See, Scheme 8. Desirably, the boron agent is tri-isopropylborate. The boron agent is typically reacted with the carbonitrile in the presence of lithium di-isopropylamide (LDA) and tri-isopropylborate to give a boronate/borinate mixture which is not isolated. The coupling is typically performed in situ in the presence of a soluble palladium (0) catalyst to give 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile in an unpurified form.

reactant | 1-methyl-pyrrole-2-carbonitrile | CN1C(=CC=C1)C#N | C6H6N2
reactant | boron | [B] | B
reactant | Brofoxine | CC1(C=2C=C(C=CC2NC(=O)O1)Br)C | C10H10BrNO2
product | 5-(4,4-dimethyl-2-oxo-1,4- dihydro -2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C | C15H13N3O2
